US07807673B2
Step D: N-{5-[(2-Chloro-4-pyrimidinyl)ethynyl]-2-methylphenyl}-2,2,2-trifluoroacetamide
To a solution of 2,4-dichloropyrimidine (3.8 g, 25.5 mmol) in THF (175 mL) was added Pd(PPh3)2Cl2 (1.8 g, 2.6 mmol), CuI (247 mg, 1.3 mmol), and TEA (10.7 mL, 76.5 mmol) and the mixture was heated to 60° C. A solution of N-(5-ethynyl-2-methylphenyl)-2,2,2-trifluoroacetamide (6.4 g, 28 mmol) in THF (75 mL) was added through an addition funnel over 60 min. After 16 h, the dark reaction was concentrated onto silica gel and purified by column chromatography. Fractions containing product were concentrated and the impurity was triturated with DCM. The remaining liquid was purified again by column chromatography to give the desired product (2.7 g, 31%). 1H NMR (400 MHz, d6-DMSO) δ 11.09 (s, 1H), 8.83 (d, J=4.8 Hz, 1H), 7.77 (d, J=5.2 Hz, 1H), 7.62 (s, 1H), 7.58 (dd, J=8.0 and 1.6 Hz, 1H), 7.45 (d, J=8.0 Hz, 1H), 2.24 (s, 3H) ppm.

reactant | 2,4-dichloropyrimidine | 25.5 mmol, 3.8 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | N-(5-ethynyl-2-methylphenyl)-2,2,2-trifluoroacetamide | 28 mmol, 6.4 g | C(#C)C=1C=CC(=C(C1)NC(C(F)(F)F)=O)C | C11H8F3NO
solvent | THF | 175 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)2Cl2 | 2.6 mmol, 1.8 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.3 mmol, 247 mg | [Cu]I
product | N-{5-[(2-Chloro-4-pyrimidinyl)ethynyl]-2-methylphenyl}-2,2,2-trifluoroacetamide | 2.7 g, 31% | ClC1=NC=CC(=N1)C#CC=1C=CC(=C(C1)NC(C(F)(F)F)=O)C | C15H9ClF3N3O
